* === CIRCUIT FOR VALIDATION ===
V1 5 0 2   EXP (2 5 1 0.2 2 0.5)
V2 3 2 0.2 PULSE (0.2, 1, 1, 0.1, 0.4, 0.5, 2)
V3 7 6 2
R1 1 5 1.5
R2 1 12 1
R3 5 2 50
R4 5 6 0.1
R5 2 6 1.5
R6 3 4 0.1
R7 7 0 1e3
R8 4 0 10
I1 4 7 1e-3 SIN (1e-3 0.5 5 1 1 30)
I2 0 6 1e-3 PWL (0 1e-3) (1.2 0.1) (1.4 1) (2 0.2) (3 0.4)
C1 7 0 0.1
C2 2 0 0.2
L1 12 2 0.1


* Transient Analysis
.options method=tr
*.options sparse
.tran 0.1 3
.plot V(1) V(5) V(2) V(3) V(4) V(6) V(7) V(12) 
*.control
*run
*plot V(1) V(5) V(2) V(3) V(4) V(6) V(7) V(12)
*.OPTIONS METHOD=TR SPD
*ITER SPD
*.endc

.end
